US04032536
A mixture of 5.04 parts of 4-[5,5-dimethyl-2-(2-thienyl)-1,3-dioxan-2-yl]-2-nitrobenzenamine and 120 parts of methanol is hydrogenated at normal pressure and at room temperature with 3 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated, yielding 4.5 parts (100%) of 4-[5,5-dimethyl-2-(2-thienyl)-1,3-dioxan-2-yl]-1,2-benzenediamine; mp. 178° C.

reactant | 4-[5,5-dimethyl-2-(2-thienyl)-1,3-dioxan-2-yl]-2-nitrobenzenamine | CC1(COC(OC1)(C=1SC=CC1)C1=CC(=C(C=C1)N)[N+](=O)[O-])C | C16H18N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 4-[5,5-dimethyl-2-(2-thienyl)-1,3-dioxan-2-yl]-1,2-benzenediamine | 100% | CC1(COC(OC1)(C=1SC=CC1)C=1C=C(C(=CC1)N)N)C | C16H20N2O2S
